US06100397
Method A Toluene (85L) was azeotropically dried in an argon purged reactor, cooled to 10° C. and a solution of trimethylaluminum in toluene (18.57 kg, 16.7% w/w, 43 mole) added. To this at 20 to 24° C. was added a solution of 1-n-butyl-4-piperidinylmethylamine (7.39 kg, 99.4% pure, 42.7 mole) in toluene (22 L) over 43 minutes. Methyl 3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxylate (9.65 kg, 98.9% pure, 41.3 mole) was added in one portion and the reaction heated to reflux at 112° C. for 4 hours 10 minutes after which time the reaction was judged to be complete by HPLC analysis. 10% Sodium hydroxide solution (52.2 L), prepared from 32% ww sodium hydroxide (24 L) and water (80 L), was added cautiously over 16 minutes at about 60 to 70° C. The resulting mixture was heated to 70 to 80° C. and the aqueous layer separated. The toluene layer was washed with 10% sodium hydroxide (52.2 L) followed twice by water (29 L each wash). The toluene layer was cooled and diluted with hexane fraction (133 L) to crystallise the product. After cooling to about 2° C. overnight the product was collected by filtration, washed on the filter with hexane (21 L) and dried in vacuo at 40° C. overnight to give SB-207266 batch 207266-HP8 (12.26 kg, 94.5% pure, 75.9%).

reactant | trimethylaluminum | C[Al](C)C
reactant | 1-n-butyl-4-piperidinylmethylamine | 42.7 mole, 7.39 kg | C(CCC)N1CCC(CC1)CN | C10H22N2
reactant | Methyl 3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxylate | 41.3 mole, 9.65 kg | O1CCCN2C1=C(C=1C=CC=CC21)C(=O)OC | C13H13NO3
reactant | Sodium hydroxide | 52.2 L | [OH-].[Na+]
reactant | sodium hydroxide | 24 L | [OH-].[Na+]
solvent | toluene | 22 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 43 mole, 18.57 kg | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 L | O | H2O
product | N-[(1-butyl-4-piperidinyl)methyl]-3,4-dihydro-2H-[1,3]-oxazino[3,2-a]indole-10-carboxamide | 93% yield | C(CCC)N1CCC(CC1)CNC(=O)C1=C2N(C=3C=CC=CC13)CCCO2 | C22H31N3O2
